US06060459
Preparation of Lauroylguanosine
To a 100 mL flask was added guanosine (2.0 g, 7.06 mmol) and N,N-dimethyl-4-aminopyridine (0.017 g, 0.14 mmol). N,N-dimethylformamide (25 mL) was added via cannula with stirring, the flask was purged with argon gas and pyridine (14 mL) was added via cannula. The slurry was allowed to cool 10 min. in an ice/NaCl bath and lauroyl chloride (2.12 mL, 9.2 mmol) was added dropwise. The mixture was allowed to stir while it slowly warmed to 25° C. After 18 h, the mixture was poured into 300 mL of ice-cold 0.1 M sodium bicarbonate solution giving a white solid which was isolated by suction filtration, washed with 3×100 mL hot water, air dried, and recrystallized from hot methanol.

reactant | guanosine | 7.06 mmol, 2.0 g | [C@@H]1([C@H](O)[C@H](O)[C@@H](CO)O1)N1C=NC=2C(=O)NC(N)=NC12 | C10H13N5O5
reactant | lauroyl chloride | 9.2 mmol, 2.12 mL | C(CCCCCCCCCCC)(=O)Cl | C12H23ClO
catalyst | N,N-dimethyl-4-aminopyridine | 0.14 mmol, 0.017 g | CN(C)C1=CC=NC=C1 | C7H10N2
solvent | N,N-dimethylformamide | 25 mL | CN(C=O)C | C3H7NO
product | Lauroylguanosine | C(CCCCCCCCCCC)(=O)[C@@]1([C@H](O)[C@H](O)[C@@H](CO)O1)N1C=NC=2C(=O)NC(N)=NC12 | C22H35N5O6
